US08975254B2
d) 2-chloro-6-fluoro-4-(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)-benzonitrile
To a solution of 2-chloro-6-fluoro-4-iodobenzonitrile (5.75 g, 20.4 mmol) and 1-(tetrahydro-2H-pyran-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (7.39 g, 26.6 mmol) in THF (60 ml) was added bis(triphenylphosphine)-palladium(II) chloride (0.717 g, 1.02 mmol), sodium carbonate (5.20 g, 49.0 mmol) and water (20 ml). Reaction mixture was heated at 60° C. for 2 h, concentrated to ¼ of the volume, diluted with water (40 ml) and stirred at RT for 1 h. Thus resulting solid was filtered and suspended in EtOH (30 ml). Suspension was stirred at −10° C. for 1 h, precipitate was filtered and washed with EtOH to yield 2.90 g (46%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 1.49-1.72 (m, 3H), 1.78-2.03 (m, 2H), 2.29-2.44 (m, 1H), 3.56-3.68 (m, 1H), 3.93-4.03 (m, 1H), 5.36 (dd, 1H), 6.78 (d, 1H), 7.66 (d, 1H), 7.73 (dd, 1H), 7.81 (m, 1H).

reactant | 2-chloro-6-fluoro-4-iodobenzonitrile | 20.4 mmol, 5.75 g | ClC1=C(C#N)C(=CC(=C1)I)F | C7H2ClFIN
reactant | 1-(tetrahydro-2H-pyran-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 26.6 mmol, 7.39 g | O1C(CCCC1)N1N=CC=C1B1OC(C(O1)(C)C)(C)C | C14H23BN2O3
reactant | sodium carbonate | 49.0 mmol, 5.20 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 20 ml | O | H2O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
catalyst | bis(triphenylphosphine)-palladium(II) chloride | 1.02 mmol, 0.717 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 2-chloro-6-fluoro-4-(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)-benzonitrile | 2.90 g, 46% | ClC1=C(C#N)C(=CC(=C1)C1=CC=NN1C1OCCCC1)F | C15H13ClFN3O
